US06936612B2
8-Cyclopentyl-6-methoxymethyl-2-methylsulfanyl-8H-pyrido [2,3-d]pyrimidin-7-one (4.44 g, 14.54 mmol) and 2-benzenesulfonyl-3-phenyl-oxaziridine (4.94 g, 18.90 mmol) were dissolved in dichloromethane (100 mL) and stirred at ambient temperature for 12 hours. The solvent volume was reduced to approximately 50 mL and was then purified by silica gel chromatography to give 8-cyclopentyl-2-methanesulfinyl-6-methoxymethyl-8H-pyrido[2,3-d]pyrimidin-7-one as an off-white solid (2.51 g, 53.7%). 1H NMR δ (400 MHz, CDCl3) 8.93 (s, 1H), 7.78 (t, J=1.7 Hz, 1H), 5.99 (m, 1H), 4.46 (d, J=1.7 Hz, 1H), 3.53 (s, 3H), 2.96 (s, 3H), 2.23 (m, 2H), 2.12 (m, 2H), 1.93 (m, 2H), 1.69 (m, 2H).

reactant | 8-Cyclopentyl-6-methoxymethyl-2-methylsulfanyl-8H-pyrido [2,3-d]pyrimidin-7-one | 14.54 mmol, 4.44 g | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)SC)COC)=O | C15H19N3O2S
reactant | 2-benzenesulfonyl-3-phenyl-oxaziridine | 18.90 mmol, 4.94 g | C1(=CC=CC=C1)S(=O)(=O)N1OC1C1=CC=CC=C1 | C13H11NO3S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 8-cyclopentyl-2-methanesulfinyl-6-methoxymethyl-8H-pyrido[2,3-d]pyrimidin-7-one | 2.51 g, 53.7% | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)S(=O)C)COC)=O | C15H19N3O3S
